US04908436
Preparation of 2-(3'-amino-4'-sulfophenylamino)-4-chloro-6-(β-vinylsulfonylethylamino)-1,3,5-triazine
18.8 parts of 1,3-diaminobenzene-4-sulfonic acid are dissolved in 100 parts of water under neutral conditions. This solution is added dropwise in the course of 10 minutes to a mixture of 200 parts of ice and water, 18.5 parts of 2,4,6-trichloro-1,3,5-triazine and 10 parts of 37% hydrochloric acid. The reaction mixture is held at pH 1.5 until the condensation has ended by the continuous addition of 2N sodium hydroxide solution. After the addition of 22.9 parts of β-(β-chloroethylsulfonyl)-ethylamine hydrochloride, the temperature of the reaction mixture is gradually raised from 5° C. to 20° C. while the reaction mixture is initially held at pH 6.5 and then at pH 8.0 by the continuous addition of 2N sodium hydroxide solution. After the condensation and elimination reaction has ended, this reaction mixture is used directly for the acid coupling in Example 4.

reactant | 1,3-diaminobenzene-4-sulfonic acid | NC1=CC(=C(C=C1)S(=O)(=O)O)N | C6H8N2O3S
reactant | 2,4,6-trichloro-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | β-(β-chloroethylsulfonyl)-ethylamine hydrochloride | Cl.ClCCS(=O)(=O)CCN
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(3'-amino-4'-sulfophenylamino)-4-chloro-6-(β-vinylsulfonylethylamino)-1,3,5-triazine | NC=1C=C(C=CC1S(=O)(=O)O)NC1=NC(=NC(=N1)Cl)NCCS(=O)(=O)C=C | C13H15ClN6O5S2
